US07482374B2
2-(2-Bromoethyl)-5-chlorothiophene
To a solution of 2-(5-chloro-2-thienyl)-ethanol* (12.2 g) and triphenylphosphine (21.4 g) in anhydrous THF (150 ml) at 0° C. was added carbon tetrabromide (27.5 g). The reaction was stirred at 5° C. for 15 min then at room temperature for 2.5 h. Ether was added and the reaction was then filtered and the filtrate concentrated. The resultant residue was purified by flash column chromatography (silica, eluting with cyclohexane:DCM 8:1) to give the title compound (15 g) as an oil. * Schick et al., J. Amer. Chem. Soc., 70, 1948, 1646.

reactant | 2-(5-chloro-2-thienyl)-ethanol | ClC1=CC=C(S1)CCO | C6H7ClOS
reactant | triphenylphosphine | 21.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 27.5 g | C(Br)(Br)(Br)Br | CBr4
reactant | Ether | CCOCC | C4H10O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(2-Bromoethyl)-5-chlorothiophene | 15 g | BrCCC=1SC(=CC1)Cl | C6H6BrClS
